US04839355
(e) Ethyl (S)-10-amino-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate [X; R"=CH3 ]
A slurry of 701 g of ethyl (S)-10-azido-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate in 6.0 of dimethylformamide was charged to the five gallon autoclave. After placing the vessel under nitrogen, a slurry of 45 g of 10% palladium-on-carbon in 700 ml of dimethylformamide was added. The mixture was hydrogenated at 48-50 psi and 600 RPM. A 10° C. rise in temperature was observed during the first thirty minutes of reaction. The reaction mixture was filtered and washed with 2×3 L of dimethylformamide. Concentration of the filtrate under aspirator pressure gave a very thick, dark residue (volume~700 ml). Ethanol (1.2 L) was added and the suspension was refluxed briefly. After cooling to 0° C., the product was collected, washed with 3×300 ml of cold ethanol and dried for eighteen hours at 80° C. in vacuo to give 508 g of product which was shown to be 97.6% pure by HPLC.

reactant | ethyl (S)-10-azido-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 701 g | N(=[N+]=[N-])C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F | C15H13FN4O4
reactant | Ethanol | 1.2 L | C(C)O | C2H6O
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
catalyst | palladium-on-carbon | 45 g | [Pd] | Pd
product | Ethyl (S)-10-amino-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 508 g | NC=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F | C15H15FN2O4
